US08202417B2
(S)-1-(Napht-1-yl)-allylamine (S-12)
Amine 12 (600 mg, 3.3 mmol) was dissolved in 40 ml of methyl-tert-butyl-ether. 1 ml of ethyl-metoxyacetate and 5.0 g of Novozym 435 were added, and all was stirred for 120 h on 30° C. Reaction was followed by HPLC analysis on the Chiralcel OD column (250×4.6 mm) with hexane:t-BuOH:dimethylamine=92:8:0.2 (1 ml/min, 254 nm, tR(S)=15.31 min, tR(R)=18.28 min) as the mobile phase. The enzyme was separated from the reaction mixture by filtration and the filtrate was evaporated to oil remain which was dispersed in 10 ml of 1 M HCl and extracted twice with 20 ml of dichloromethane. The aqueous layer was alkalified with a solid sodium carbonate to pH=8 and extracted three times with 20 ml of diethyl-ether. Organic layers were combined and dried over anhydrous sodium sulphate. After filtration and solvent removal, S-12 as yellow oil (267 mg; 89%) was yielded. According to HPLC analysis ee>99%. [α]D25=−46 (c=0.05 M, CHCl3).

reactant | Amine 12 | 3.3 mmol, 600 mg | CCCCCCCCCCCCN | C12H27N
reactant | ethyl-metoxyacetate | 1 ml | C(C)OC(COC)=O | C5H10O3
reactant | hexane | CCCCCC | C6H14
reactant | dimethylamine | CNC | C2H7N
solvent | methyl-tert-butyl-ether | 40 ml | COC(C)(C)C | C5H12O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | (S)-1-(Napht-1-yl)-allylamine | C1(=CC=CC2=CC=CC=C12)[C@H](C=C)N | C13H13N
